US09168259B2
To a solution of 2-cyclopropyl-4-methyl-6-morpholin-4-yl-pyridine-3-carboxylic acid (synthesized according to the methods described in sections a) to d) of example X1) (0.50 g, 1.91 mmol) in dichloromethane (20 ml) are added N-ethyl-diisopropylamine (0.81 ml, 4.77 mmol), 1-ethyl-3-(3-dimethylaminopropyl) carbodiimide hydrochloride (0.42 g, 2.29 mmol), and 1-hydroxybenzotriazole hydrate (0.05 g, 0.38 mmol). The mixture is stirred for 15 min at RT, and then cooled to 0° C., before 2-(aminomethyl)cyclopentanol (0.22 g, 1.91 mmol) is added and stirring is continued for 3 days. After completion of the reaction, the mixture is diluted with ethyl acetate and 10% aqueous ammonium chloride. The organic layer is separated and washed with saturated sodium hydrogencarbonate solution and brine, dried over magnesium sulphate and evaporated to dryness affording example X4 as crude product. The crude product is purified by flash chromatography (silica gel, 50% ethyl acetate/cyclohexane) to yield the first eluting diastereomer of 2-cyclopropyl-N-([2-hydroxy-cyclopentyl]-methyl)-4-methyl-6-morpholin-4-yl-pyridine-3-carboxylic acid amide (example X4a) (0.34 g, 0.95 mmol, [M+H]+360.2) and the second eluting diastereomer of 2-cyclopropyl-N-([2-hydroxy-cyclopentyl]-methyl)-4-methyl-6-morpholin-4-yl-pyridine-3-carboxylic acid amide (example X4b) (0.27 g, 0.75 mmol, [M+H]+360.2) as white solids.

reactant | 2-cyclopropyl-4-methyl-6-morpholin-4-yl-pyridine-3-carboxylic acid | C1(CC1)C1=NC(=CC(=C1C(=O)O)C)N1CCOCC1 | C14H18N2O3
reactant | N-ethyl-diisopropylamine | 4.77 mmol, 0.81 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 1-ethyl-3-(3-dimethylaminopropyl) carbodiimide hydrochloride | 2.29 mmol, 0.42 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole hydrate | 0.38 mmol, 0.05 g | O.ON1N=NC2=C1C=CC=C2
reactant | 2-(aminomethyl)cyclopentanol | 1.91 mmol, 0.22 g | NCC1C(CCC1)O | C6H13NO
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ammonium chloride | [Cl-].[NH4+]
product | 2-cyclopropyl-N-([2-hydroxy-cyclopentyl]-methyl)-4-methyl-6-morpholin-4-yl-pyridine-3-carboxylic acid amide | 0.95 mmol, 0.34 g | C1(CC1)C1=NC(=CC(=C1C(=O)NCC1C(CCC1)O)C)N1CCOCC1 | C20H29N3O3
